US08859573B2
5-ethynyl-2-{[3-(trifluoromethyl)phenyl]oxy}benzonitrile
To a mixture of 5-formyl-2-{[3-(trifluoromethyl)phenyl]oxy}benzonitrile (1 g, 3.43 mmol) and dimethyl (1-diazo-2-oxopropyl)phosphonate (1.326 g, 6.87 mmol) in methanol (45 mL), was added potassium carbonate (2.373 g, 17.17 mmol) under argon. The reaction mixture was stirred for 1 h at rt, concentrated. The residue was dissolved in EtOAc (150 mL), washed with sat. ammonium hydrochloride solution (30 mL×3), water 30 mL, concentrated. Purification via ISCO system (EA/PE=1:20) afforded the title compound as a pale yellow oil. LC-MS (ESI): m/z 288 [M+H]+; 3.71 min (ret time).

reactant | 5-formyl-2-{[3-(trifluoromethyl)phenyl]oxy}benzonitrile | 3.43 mmol, 1 g | C(=O)C=1C=CC(=C(C#N)C1)OC1=CC(=CC=C1)C(F)(F)F | C15H8F3NO2
reactant | dimethyl (1-diazo-2-oxopropyl)phosphonate | 6.87 mmol, 1.326 g | [N+](=[N-])=C(C(C)=O)P(OC)(OC)=O | C5H9N2O4P
reactant | potassium carbonate | 17.17 mmol, 2.373 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 45 mL | CO | CH4O
product | 5-ethynyl-2-{[3-(trifluoromethyl)phenyl]oxy}benzonitrile | C(#C)C=1C=CC(=C(C#N)C1)OC1=CC(=CC=C1)C(F)(F)F | C16H8F3NO
